US08486950B2
Chloroacetic acid (22 g, 0.23 mol) and 6-isopropyl-2-mercaptopyrimidin-4-ol (10 g, 59 mmol) were suspended in water (150 mL). The reaction mixture was refluxed for 6 hours. Concentrated HCl (0.36 mL) was added carefully, and the reaction was returned to reflux for 12 hours. After cooling to room temperature, the mixture was concentrated under reduced pressure to give 6-isopropylpyrimidine-2,4-diol (9.0 g, yield: 100%), which was used in the next step without further purification. LCMS (ESI) m/z: 155.0 [M+H+].

reactant | Chloroacetic acid | 0.23 mol, 22 g | ClCC(=O)O | C2H3ClO2
reactant | 6-isopropyl-2-mercaptopyrimidin-4-ol | 59 mmol, 10 g | C(C)(C)C1=CC(=NC(=N1)S)O | C7H10N2OS
reactant | HCl | 0.36 mL | Cl | ClH
solvent | water | 150 mL | O | H2O
product | 6-isopropylpyrimidine-2,4-diol | 9.0 g, yield: 100% | C(C)(C)C1=CC(=NC(=N1)O)O | C7H10N2O2
